US07417169B2
A mixture of ethyl 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.233 g), acetic acid (0.2 mL), water (2 mL) and 1,4-dioxane (2 mL) was stirred at 75° C. for 2 days. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/5-1/3) to afford 4-ethoxycarbonyl-2,6-dimethylphenylboronic acid (0.047 g).

reactant | ethyl 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.233 g | CC=1C=C(C(=O)OCC)C=C(C1B1OC(C(O1)(C)C)(C)C)C | C17H25BO4
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | water | 2 mL | O | H2O
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethoxycarbonyl-2,6-dimethylphenylboronic acid | 0.047 g | C(C)OC(=O)C1=CC(=C(C(=C1)C)B(O)O)C | C11H15BO4
